US07858796B2
(8) 5-phenyl-1H-indole-7-carboxamide
To a solution of 5-phenyl-1H-indole-7-carboxylic acid (10.0 g, 42.0 mmol) in a mixture of CH2Cl2 (100 mL) and THF (100 mL) at room temperature, N-(3-Dimethylaminopropy)-N′-ethylcarbodiimide hydrochloride (9.66 g, 50.4 mmol), 1-Hydroxybenzotriazole hydrate (6.81 g, 50.4 mmol) and ammonia (2 M in methanol, 168 mmol, 84 mL) were added. The reaction mixture was stirred at room temperature for 24 hours. All solvent were evaporated and the reaction mixture was partitioned between ethyl acetate (200 mL) and water (200 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (×2). The combined organic phase washed with brine, dried over Mg2SO4 and concentration to give the product which is pure enough for next reaction (10 g, 100%).

reactant | 5-phenyl-1H-indole-7-carboxylic acid | 42.0 mmol, 10.0 g | C1(=CC=CC=C1)C=1C=C2C=CNC2=C(C1)C(=O)O | C15H11NO2
reactant | N-(3-Dimethylaminopropy)-N′-ethylcarbodiimide hydrochloride | 50.4 mmol, 9.66 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-Hydroxybenzotriazole hydrate | 50.4 mmol, 6.81 g | O.ON1N=NC2=C1C=CC=C2
reactant | ammonia | 168 mmol, 2 M, 84 mL | N | H3N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-phenyl-1H-indole-7-carboxamide | C1(=CC=CC=C1)C=1C=C2C=CNC2=C(C1)C(=O)N | C15H12N2O
